US06288192B1
On the other hand, in an egg-plant type flask with an inner volume of 25 ml replaced with argon, 5 ml of purified toluene and 1.2 mg of dichloro{2,2′-thiobis[4-methyl-6-(tert-butyl)phenolato} titanium were mixed by stirring, and then charged into the autoclave. The molar ratio of [Al]/[Ti] of the catalyst solution prepared then was 8,000. After the catalyst solution was mixed by stirring at room temperature for 10 minutes, 15.6 ml of 1-octene and 22.4 g of 1-butene were charged and the polymerization was carried out at 40° C. for 1 hour. Then, the polymerization was terminated by adding methanol. Further, the mixture was charged into about 10-fold acidic methanol, and the precipitated polymer was filtered to be dried at 80° C. for about 2 hours. As a result, 1.0 g of poly(1-butene/1-octene) copolymer was obtained. Mw of the polymer obtained was 537×104, Mn was 86×104, Mw/Mn was 6.2, and no crystal fusion peak by DSC was detected. The glass transition temperature (Tg) was observed at −50° C. and the polymer was amorphous.

reactant | 1-octene | 15.6 ml | C=CCCCCCC | C8H16
reactant | 1-butene | 22.4 g | C=CCC | C4H8
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 1-butene 1-octene | C=CCC.C=CCCCCCC | InChI=1S/C8H16.C4H8/c1-3-5-7-8-6-4-2;1-3-4-2/h3H,1,4-8H2,2H3;3H,1,4H2,2H3
